US08431563B2
A 150-mL round-bottomed flask was charged with 4-benzyl 1-tert-butyl 2-oxo-1,4-piperazinedicarboxylate (1.41 g, 4.22 mmol) and THF (5 mL). 1-Propynylmagnesium bromide (0.5 M in THF, 20.0 mL, 10.0 mmol, Sigma-Aldrich, St. Louis, Mo.) was added at 0° C. slowly. The mixture was stirred at 0° C. for 2 h. Saturated aqueous NH4Cl (40 mL) was added and the aqueous phase was extracted with EtOAc (200 mL, then 2×100 mL). The combined organic phases were dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by column chromatography (50 g of silica, 0 to 50% EtOAc in hexanes) to afford benzyl (2-((tert-butoxycarbonyl)amino)ethyl)(2-oxo-3-pentyn-1-yl)carbamate (1.55 g) as a clear oil.

reactant | 4-benzyl 1-tert-butyl 2-oxo-1,4-piperazinedicarboxylate | 4.22 mmol, 1.41 g | O=C1N(CCN(C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C17H22N2O5
reactant | 1-Propynylmagnesium bromide | 10.0 mmol, 0.5 M, 20.0 mL | C(#CC)[Mg]Br
reactant | NH4Cl | 40 mL | [NH4+].[Cl-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | benzyl (2-((tert-butoxycarbonyl)amino)ethyl)(2-oxo-3-pentyn-1-yl)carbamate | 1.55 g | C(C)(C)(C)OC(=O)NCCN(C(OCC1=CC=CC=C1)=O)CC(C#CC)=O | C20H26N2O5
